US09193733B2
Step 7. {3-oxo-1-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclobutyl}acetonitrile
To a solution of {3-hydroxy-1-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclobutyl}acetonitrile (9.3 g, 22 mmol, as a mixture of diastereomers from Step 6) in methylene chloride (300 mL) at 0° C. was added Dess-Martin periodinane (10.0 g, 24 mmol). After a reaction time of 2 hours, the mixture was poured into 1N NaOH and extracted with three portions of DCM. The combined extracts were washed with further 1N NaOH, dried over sodium sulfate, decanted and the solvent removed in vacuo. Flash chromatography, eluting with a gradient from 0-10% MeOH in DCM afforded product as a yellow foam. Theoretical yield assumed for use in Step 8. 1H NMR (300 MHz, CDCl3): δ 8.85 (s, 1H), 8.50 (s, 1H), 8.35 (s, 1H), 7.42 (d, 1H), 6.80 (d, 1H), 5.68 (s, 2H), 4.11-4.00 (m, 2H), 3.74-3.61 (m, 2H), 3.59-3.50 (m, 2H), 3.31 (s, 2H), 0.96-0.88 (m, 2H), −0.06 (s, 9H); LCMS (M+H)+: 423.0.

reactant | {3-hydroxy-1-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclobutyl}acetonitrile | OC1CC(C1)(N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C)CC#N | C21H28N6O2Si
reactant | Dess-Martin periodinane | 24 mmol, 10.0 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaOH | 1N | [OH-].[Na+]
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | {3-oxo-1-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclobutyl}acetonitrile | O=C1CC(C1)(N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C)CC#N | C21H26N6O2Si
